US05977152
Ethyl trans-4-(trifluoromethyl)cinnamate
After 903 mg (20.7 mmol) of 55% sodium hydride were washed with hexane, it was suspended in 60 ml of 1,2-dimethoxyethane, and 4.63 g (20.7 mmol) of triethyl phosphonoacetate were added dropwise thereto while the suspension was stirred at 0° C. under nitrogen atmosphere. After 15 minutes, 2.00 g (11.5 mmol) of 4-(trifluoromethyl)benzaldehyde were added to the resulting mixture at the same temperature, followed by stirring of the mixture for 15 minutes. Ethyl acetate was added to the reaction mixture and the resulting mixture was washed with water. After drying, an oily residue obtained by evaporation of the solvent was subjected to column chromatography using silica gel and eluted with 4% ethyl acetate-hexane to obtain the title compound having a melting point of 31 to 32.5° C. in a yield of 98%.

reactant | sodium hydride | 20.7 mmol, 903 mg | [H-].[Na+]
reactant | 4-(trifluoromethyl)benzaldehyde | 11.5 mmol, 2.00 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | 1,2-dimethoxyethane | 60 ml | COCCOC | C4H10O2
product | Ethyl trans-4-(trifluoromethyl)cinnamate | yield of 98% | FC(C1=CC=C(/C=C/C(=O)OCC)C=C1)(F)F | C12H11F3O2
